US07569577B2
4.0 M HCl in Dioxane (4.0 ml) was added to a stirred suspension of 7-(benzyloxy)-4-chloro-6-methoxyquinazoline (CAS Registry No162364-72-9, prepared as described in WO98/13354, Example 1) (60 g, 0.2 mol) and 3-chloro-2-fluoroaniline (31.96 g, 0.22 mol) in acetonitrile (1200 ml). The reaction mixture was heated at 80° C. for 1 hour then left to stand overnight. Acetonitrile (500 ml) was added and the resulting precipitate filtered, washed with acetonitrile (3×500 ml) and dried under vacuum to give 7-(benzyloxy)-N-(3-chloro-2-fluorophenyl)-6-methoxyquinazolin-4-amine hydrochloride as a beige solid (85.45 g, 96%); 1H NMR Spectrum: (DMSO d6) 4.02 (s, 3H), 5.35 (s, 2H), 7.30-7.60 (m, 9H), 7.65 (m, 1H), 8.38 (s, 1H), 8.85 (s, 1H), 11.8 (s, 1H); Mass Spectrum: (M+H)+ 410.

reactant | HCl | 4.0 M | Cl | ClH
reactant | 7-(benzyloxy)-4-chloro-6-methoxyquinazoline | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 3-chloro-2-fluoroaniline | 0.22 mol, 31.96 g | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
solvent | Dioxane | 4.0 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 1200 ml | C(C)#N | C2H3N
solvent | Acetonitrile | 500 ml | C(C)#N | C2H3N
product | 7-(benzyloxy)-N-(3-chloro-2-fluorophenyl)-6-methoxyquinazolin-4-amine hydrochloride | 85.45 g, 96% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C(=CC=C1)Cl)F)OC | InChI=1S/C22H17ClFN3O2.ClH/c1-28-19-10-15-18(11-20(19)29-12-14-6-3-2-4-7-14)25-13-26-22(15)27-17-9-5-8-16(23)21(17)24;/h2-11,13H,12H2,1H3,(H,25,26,27);1H
